US06673803B2
Sodium hydride (55 mg of a 60% dispersion in mineral oil. 1.1 mmol) was added to a solution of glutarimide (120 mg, 1.06 mmol) in DMF (5 ml) at ambient temperature under argon and the mixture stirred for 30 minutes. 7-(2-Bromoethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline (428 mg, 1 mmol), (prepared as described for the starting material in Example 62), in DMF (2 ml) was added and the resulting pale green solution was stirred for 18 hours and then quenched with water. The volatiles were removed by evaporation, and the residue was partitioned between water and ethyl acetate. The organic phase was separated and washed with water and then dried (MgSO4). The solvent was removed by evaporation, and the residue was purified by column chromatography eluting with ethyl acetate then ethyl acetate/methanol (9/1). The purified product was recrystallised from ethyl acetate and hexane, collected by filtration and washed with ether to give 4-(4-chloro-2-fluoroanilino)-7-(2-(2,6-dioxopiperidino)ethoxy)-6-methoxyquinazoline (252 mg, 55%).

reactant | Sodium hydride | [H-].[Na+]
reactant | glutarimide | 1.06 mmol, 120 mg | C1(CCCC(N1)=O)=O | C5H7NO2
reactant | 7-(2-Bromoethoxy)-4-(4-chloro-2-fluoroanilino)-6-methoxyquinazoline | 1 mmol, 428 mg | BrCCOC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1)Cl)F)OC | C17H14BrClFN3O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-fluoroanilino)-7-(2-(2,6-dioxopiperidino)ethoxy)-6-methoxyquinazoline | 252 mg, 55% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C(CCCC2=O)=O)C=C1)F | C22H20ClFN4O4
